US04880809
Diethyl phosphorocyanidate (0.9 g) is added dropwise to an ice-cooling mixture consisting of 5,6-dimethoxy-1H-indene-2-carboxylic acid (0.8 g), 1-(3,4,5-trimethyoxybenzyl)piperazine dihydrochloride (1.3 g), triethylamine (2 ml) and N,N-dimethylformamide (12 ml) with stirring. The whole mixture is stirred at room temperature for two hours and water is added. The mixture is extracted with ethyl acetate. The extract solution is washed with water, dried and then concentrated under reduced pressure. The residue is purified by silica gel column chromatography (ethyl acetate:hexane:acetone=12:8:5) to give an oily product. This product is converted to the hydrochloride in ethanol to afford 1-(5,6-dimethoxy-1H-inden-2-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (1.45 g) as colorless scales, m.p. 245°-250° C. (decomp.).

reactant | Diethyl phosphorocyanidate | 0.9 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | 5,6-dimethoxy-1H-indene-2-carboxylic acid | 0.8 g | COC=1C=C2C=C(CC2=CC1OC)C(=O)O | C12H12O4
reactant | 1-(3,4,5-trimethyoxybenzyl)piperazine dihydrochloride | 1.3 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | hydrochloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 1-(5,6-dimethoxy-1H-inden-2-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 1.45 g | Cl.COC=1C=C2C=C(CC2=CC1OC)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C26H32N2O6.ClH/c1-30-21-14-18-12-20(13-19(18)15-22(21)31-2)26(29)28-8-6-27(7-9-28)16-17-10-23(32-3)25(34-5)24(11-17)33-4;/h10-12,14-15H,6-9,13,16H2,1-5H3;1H
